US08372842B2
1-(Chloromethyl)-4-methoxybenzene (0.734 g, 4.69 mmol) was slowly added to a stirring mixture of tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (2.00 g, 4.26 mmol) and potassium carbonate (0.883 g, 6.39 mmol) in DMF (30 mL) at room temperature, and the reaction was then stirred for 2 hours. EtOAc (200 mL) and water (100 mL) were added to the mixture, and the phases were separated. The organic suspension was washed with water (3×50 mL), dried (MgSO4), filtered, and concentrated in vacuo to provide the crude as an oil. The residue was purified by flash chromatography on silica gel (Biotage Flash 40M+) eluting with 15% EtOAc/hexane to provide tert-butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate (1.44 g, 57% yield) as a solid.

reactant | 1-(Chloromethyl)-4-methoxybenzene | 4.69 mmol, 0.734 g | ClCC1=CC=C(C=C1)OC | C8H9ClO
reactant | tert-butyl 4-(5-cyclopropyl-3-iodo-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 4.26 mmol, 2.00 g | C1(CC1)C=1C(=C2C(=NC1)NN=C2I)N2CCN(CC2)C(=O)OC(C)(C)C | C18H24IN5O2
reactant | potassium carbonate | 6.39 mmol, 0.883 g | C([O-])([O-])=O.[K+].[K+]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | water | 100 mL | O | H2O
product | tert-butyl 4-(5-cyclopropyl-3-iodo-1-(4-methoxybenzyl)-1H-pyrazolo[3,4-b]pyridin-4-yl)piperazine-1-carboxylate | 1.44 g, 57% yield | C1(CC1)C=1C(=C2C(=NC1)N(N=C2I)CC2=CC=C(C=C2)OC)N2CCN(CC2)C(=O)OC(C)(C)C | C26H32IN5O3
